US04440788
S-Ethyl-N-acetyl-L-cysteine ethylamide was synthesized in exactly the same manner as described in Example 14 except that the S-methyl-N-acetyl-L-cysteine used in that example was replaced by S-ethyl-N-acetyl-L-cysteine.

reactant | S-methyl-N-acetyl-L-cysteine | CSC[C@H](NC(C)=O)C(=O)O | C6H11NO3S
reactant | S-ethyl-N-acetyl-L-cysteine | C(C)SC[C@H](NC(C)=O)C(=O)O | C7H13NO3S
product | S-Ethyl-N-acetyl-L-cysteine ethylamide | C(C)NC([C@@H](NC(C)=O)CSCC)=O | C9H18N2O2S
